US04031107
PREPARATION OF 5,6-DICHLORO-2-(TRIFLUOROMETHYL)-1H-IMIDAZO [4,5-b] PYRIDINE
1-Hydroxy-5-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine (100 milligrams) was mixed with 10milliliters of thionyl chloride and the mixture refluxed on a steam bath for ten hours. The thionyl chloride was then evaporated and the residue, the desired 5,6-dichloro-2-(trifluoromethyl) -1H-imidazo [4,5-b] pyridine product, was shaken with water and separated by filtration, m.p. 222° -24° C.

reactant | 1-Hydroxy-5-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine | 100 milligrams | ON1C(=NC2=NC(=CC=C21)Cl)C(F)(F)F | C7H3ClF3N3O
reactant | thionyl chloride | 10milliliters | S(=O)(Cl)Cl | Cl2OS
product | 5,6-DICHLORO-2-(TRIFLUOROMETHYL)-1H-IMIDAZO [4,5-b] PYRIDINE | ClC1=C(C=C2C(=N1)N=C(N2)C(F)(F)F)Cl | C7H2Cl2F3N3
